US07671043B2
28A: 3-{5-[5-(4-Isobutyl-phenyl)-[1,2,4]oxadiazol-3-yl]-pyridin-2-ylamino}-cyclobutanecarboxylic acid hydrochloride
A solution of 2-chloro-5-[5-(4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyridine (50 mg, 0.16 mmol), cis-3-amino-cylcobutanecarboxylic acid ethyl ester, hydrochloride (57.1 mg, 0.319 mmol), potassium phosphate dibasic (58.3 mg, 0.335 mmol) and DMSO (5 mL) was stirred in a sealed tube in the microwave at 200° C. for 10 minutes. The reaction mixture was cooled to room temperature and concentrated in vacuo. The resulting residue was dissolved in EtOH (3 mL). NaOH (19 mg, 0.478 mmol) and water (2 mL) were added to the reaction mixture and stirred in a sealed tube in the microwave at 180° C. for 10 minutes. The reaction mixture was cooled to room temperature, acidified with 1N HCl (5 mL), filtered and dried to provide the title compound (59 mg, 86% yield) as a solid.

reactant | 2-chloro-5-[5-(4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyridine | 0.16 mmol, 50 mg | ClC1=NC=C(C=C1)C1=NOC(=N1)C1=CC=C(C=C1)CC(C)C | C17H16ClN3O
reactant | cis-3-amino-cylcobutanecarboxylic acid ethyl ester, hydrochloride | 0.319 mmol, 57.1 mg | Cl.C(C)OC(=O)[C@@H]1C[C@@H](C1)N
reactant | potassium phosphate dibasic | 0.335 mmol, 58.3 mg | OP(=O)([O-])[O-].[K+].[K+]
reactant | NaOH | 0.478 mmol, 19 mg | [OH-].[Na+]
reactant | HCl | 1N, 5 mL | Cl | ClH
solvent | water | 2 mL | O | H2O
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 3-{5-[5-(4-Isobutyl-phenyl)-[1,2,4]oxadiazol-3-yl]-pyridin-2-ylamino}-cyclobutanecarboxylic acid hydrochloride | 59 mg, 86% yield | Cl.C(C(C)C)C1=CC=C(C=C1)C1=NC(=NO1)C=1C=CC(=NC1)NC1CC(C1)C(=O)O | InChI=1S/C22H24N4O3.ClH/c1-13(2)9-14-3-5-15(6-4-14)21-25-20(26-29-21)16-7-8-19(23-12-16)24-18-10-17(11-18)22(27)28;/h3-8,12-13,17-18H,9-11H2,1-2H3,(H,23,24)(H,27,28);1H
